US07402581B2
3-Cyano-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide (460 mg, 1.22 mmol) was dissolved in a mixture of acetone (8 mL), t-butyl alcohol (4 mL) and water (2 mL) under nitrogen. OsO4 (2.5% in t-butyl alcohol, 0.165 mL, 0.01 mmol) was added together with 4-methylmorpholine-4-oxide (630 mg, 5.4 mmol). The solution was stirred at room temperature for 5 h and then an aqueous solution of NaHSO3 (39%, 12 mL) was added. The mixture was stirred for 15 min, diluted with water (50 mL) and then extracted three times with CH2Cl2. The organic solution was dried over Na2SO4 and then the solvent was evaporated. The residue (570 mg) is was dissolved in a mixture of THF (7 mL) and water (3 mL) and to the resultant solution was added sodium periodate (287 mg, 1.34 mmol). The mixture was stirred at room temperature overnight, diluted with water (50 mL) and brine (30 mL) and then extracted twice with CH2Cl2. The organic solution was dried over Na2SO4 and then the solvent was evaporated. There was obtained 415 mg (89%) of 3-cyano-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide as an oil. 1H NMR (400 MHz, CDCl3): 1.4-4.2 (cm, 16H), 6.6-7.4 (cm, 6H), 9.7 (s, 1H); LCMS: m/z 379 (M+1)+.

reactant | 3-Cyano-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide | 1.22 mmol, 460 mg | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)N(C)C[C@@H](CC=C)C1=CC=C(C=C1)F | C24H25FN2O
reactant | 4-methylmorpholine-4-oxide | 5.4 mmol, 630 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | NaHSO3 | 12 mL | OS(=O)[O-].[Na+]
reactant | sodium periodate | 1.34 mmol, 287 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 8 mL | CC(=O)C | C3H6O
solvent | t-butyl alcohol | 4 mL | C(C)(C)(C)O | C4H10O
solvent | water | 2 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | brine | 30 mL | [Cl-].[Na+].O
catalyst | OsO4 | 0.01 mmol, 0.165 mL | O=[Os](=O)(=O)=O
product | 3-cyano-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide | 415 mg, 89% | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)N(C)C[C@@H](CC=O)C1=CC=C(C=C1)F | C23H23FN2O2
